US08471027B2
A solution of N,N-dimethylformamide (268 mg, 286 μL, 3.67 mmol) and tetrahydrofuran (2.94 mL) cooled to 0° C. was treated with oxalyl chloride (373 mg, 256 μL, 2.94 mmol). During the addition process, vigorous gas evolution occurred, the reaction became cloudy and a thick white precipitate formed. At this time, the ice bath was removed. The reaction mixture was stirred at 25° C. for 45 min and then was concentrated in vacuo. The resulting white paste was treated with toluene (11.8 mL) and 4-{3-[4-chloro-2-(pyridin-2-ylamino)-phenyl]-3-oxo-propyl}-benzoic acid methyl ester (290 mg, 734 μmol). This mixture was then heated to 115° C. for 5 h and then was stirred at 25° C. overnight. At this time, the reaction was diluted with water (30 mL) and extracted into methylene chloride (3×30 mL). The organics were dried over sodium sulfate, filtered and concentrated in vacuo. Flash chromatography (40 g column; 1-10% methanol/methylene chloride) afforded 4-(7-chloro-4-oxo-1-pyridin-2-yl-1,4-dihydro-quinolin-3-ylmethyl)-benzoic acid methyl ester (28.7 mg, 9.65%) as a brown solid. ES+-HRMS m/e calcd for C23H17ClN2O3 [M+H+] 405.1000. Found 405.0995; 1H NMR (300 MHz, DMSO-d6) δ ppm 8.73 (d, J=4.7 Hz, 1H) 8.29 (s, 1H) 8.14-8.24 (m, 2H) 7.85 (d, J=8.2 Hz, 2H) 7.79 (d, J=7.9 Hz, 1H) 7.63-7.72 (m, 1H) 7.47 (d, J=8.2 Hz, 2H) 7.43 (m, 1H) 7.21 (d, J=1.7 Hz, 1H) 3.89 (s, 2H) 3.82 (s, 3H).

reactant | N,N-dimethylformamide | 3.67 mmol, 286 μL, 268 mg | CN(C=O)C | C3H7NO
reactant | tetrahydrofuran | 2.94 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 2.94 mmol, 256 μL, 373 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-{3-[4-chloro-2-(pyridin-2-ylamino)-phenyl]-3-oxo-propyl}-benzoic acid methyl ester | 734 μmol, 290 mg | COC(C1=CC=C(C=C1)CCC(=O)C1=C(C=C(C=C1)Cl)NC1=NC=CC=C1)=O | C22H19ClN2O3
solvent | water | 30 mL | O | H2O
solvent | toluene | 11.8 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(7-chloro-4-oxo-1-pyridin-2-yl-1,4-dihydro-quinolin-3-ylmethyl)-benzoic acid methyl ester | 28.7 mg, 9.65% | COC(C1=CC=C(C=C1)CC1=CN(C2=CC(=CC=C2C1=O)Cl)C1=NC=CC=C1)=O | C23H17ClN2O3
